US04814508
To an agitated mixture of lithium chloride (3.18 g., 0.075 mole) and aluminium chloride (20 g., 0.15 mol) in dichloroethane (20 ml) was slowly added diphenyl ether (8.51 g., 0.05 mole) and acetyl chloride (3.93 g., 0.05 mol) in dichloroethane (7 ml) following the procedure of example 12. The 4-phenoxyacetophenone obtained (9.57 g., 90.3% yield, m.p. 43.5°-51° C. had 1H NMR purity of 90%.

reactant | lithium chloride | 0.075 mole, 3.18 g | [Cl-].[Li+]
reactant | aluminium chloride | 0.15 mol, 20 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | diphenyl ether | 0.05 mole, 8.51 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | acetyl chloride | 0.05 mol, 3.93 g | C(C)(=O)Cl | C2H3ClO
solvent | dichloroethane | 20 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 7 ml | ClC(C)Cl | C2H4Cl2
product | 4-phenoxyacetophenone | 90.3% yield | CC(=O)C1=CC=C(C=C1)OC2=CC=CC=C2 | C14H12O2
